US08071803B2
To a solution of cyclohexanecarboxylic acid (10.0 g, 78 mmol) in DCM (75 mL) concentrated sulfuric acid (765 mg, 7.8 mmol) was added. At a temperature between −15° C. and −10° C. isobutylene (10.94 g, 195 mmol) was introduced over 1 h. The cooling bath was removed and the reaction mixture was stirred at room temperature for 72 h. Then a second portion of isobutylene (10.94 g, 195 mmol) was introduced over 1 h at −10° C. The reaction mixture was stirred at room temperature for an additional 20 h, then NaHCO3 (7.864 g, 93.6 mmol) was added before the mixture was stirred at room temperature for another 1 h. Water (50 mL) was added under stirring. After 45 min the reaction mixture was worked up and washed until neutral. The organic phases were combined, dried over sodium sulfate and concentrated on a rotary evaporator. The crude product (13.5 g) was distilled over a Vigreux column at 35° C. (0.04 mbar) to afford 10.9 g (76%) cyclohexanecarboxylic acid tert-butyl ester as a colorless oil. 1H-NMR (CDCl3, 400 MHz): ppm 1.12-1.54 (m, 14H), 1.55-1.99 (m, 5H), 2.12-2.22 (m, 1H).

reactant | cyclohexanecarboxylic acid | 78 mmol, 10.0 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | DCM | 7.8 mmol, 75 mL, 765 mg | C(Cl)Cl | CH2Cl2
reactant | isobutylene | 195 mmol, 10.94 g | CC(C)=C | C4H8
reactant | isobutylene | 195 mmol, 10.94 g | CC(C)=C | C4H8
reactant | NaHCO3 | 93.6 mmol, 7.864 g | C(=O)(O)[O-].[Na+]
solvent | Water | 50 mL | O | H2O
product | cyclohexanecarboxylic acid tert-butyl ester | 10.9 g, 76% | C(C)(C)(C)OC(=O)C1CCCCC1 | C11H20O2
